US07560558B2
3-Hydroxy-4-methylbenzoic acid (3 g) was dissolved in N,N-dimethylformamide (60 ml) to prepare a solution. Potassium carbonate (6.81 g) and methyl iodide (6.14 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give methyl 3-methoxy-4-methylbenzoate (3.48 g, yield 98%).

reactant | 3-Hydroxy-4-methylbenzoic acid | 3 g | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | Potassium carbonate | 6.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 6.14 ml | CI | CH3I
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | methyl 3-methoxy-4-methylbenzoate | 3.48 g, yield 98% | COC=1C=C(C(=O)OC)C=CC1C | C10H12O3
